US05948911
The reaction procedure as above wherein 4-fluorobenzylamine is reacted with 4-(4-chloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-[4-(4-fluorobenzylamino)-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester.

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 4-(4-chloro-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2C)C)Cl)=O | C16H13ClN2O2S
product | 4-[4-(4-fluorobenzylamino)-5,6-dimethyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2C)C)NCC2=CC=C(C=C2)F)=O | C23H20FN3O2S
